US06673799B1
3-(4-Cyano-3-trifluoromethylphenyl)-N-(4-fluorophenyl)-5,5-dimethyl-1-imidazolidinecarboxamide
A 1.0 g portion of 1-[2-(4-cyano-3-trifluoromethylanilino)-1,1-dimethylethyl]-3-(4-fluorophenyl)urea synthesized in Reference Example 9-1 was dissolved in 10 ml of acetic acid, and the solution was mixed with 0.4 ml of formalin and heated at 50° C. for 2 hours. The solvent was evaporated, the resulting residue was purified by a silica gel column chromatography, and the compound obtained from chloroform-methanol (30:1, v/v) eluate was washed with diisopropyl ether to obtain 751 mg of the title compound.

reactant | 1-[2-(4-cyano-3-trifluoromethylanilino)-1,1-dimethylethyl]-3-(4-fluorophenyl)urea | C(#N)C1=C(C=C(NCC(C)(C)NC(=O)NC2=CC=C(C=C2)F)C=C1)C(F)(F)F | C19H18F4N4O
reactant | formalin | 0.4 ml | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Cyano-3-trifluoromethylphenyl)-N-(4-fluorophenyl)-5,5-dimethyl-1-imidazolidinecarboxamide | 751 mg | C(#N)C1=C(C=C(C=C1)N1CN(C(C1)(C)C)C(=O)NC1=CC=C(C=C1)F)C(F)(F)F | C20H18F4N4O
